US05051409
Method 2:2-Methylsulfonyl-6-hydroxydecaline (compound XI)
25.5 g (0.22 mole) of methanesulfonyl chloride were added dropwise, at 0°-5° C., to an initially taken mixture of 34 g (0.2 mole) of decalindiol and 30.3 g (0.3 mole) of triethylamine in 500 ml of dichloromethane. Stirring was then carried out for a further hour at room temperature. The mixture was poured onto ice, the organic phase was separated off and the aqueous phase was extracted several times with dichloromethane. The combined organic phases were washed with dilute hydrochloric acid, water and 5% strength sodium bicarbonate solution, dried over sodium sulfate and evaporated down under reduced pressure.

reactant | methanesulfonyl chloride | 0.22 mole, 25.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | decalindiol | 0.2 mole, 34 g | C1(CCCC2CCCCC12)(O)O | C10H18O2
reactant | triethylamine | 0.3 mole, 30.3 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-Methylsulfonyl-6-hydroxydecaline | CS(=O)(=O)C1CC2CCC(CC2CC1)O | C11H20O3S
